US06344459B1
N-[4-(3-Bromo-phenylamino)-quinazolin-6-yl]propanamide
To a solution of 6-amino-4-[(3-bromophenyl)amino]quinazoline (157 mg, 0.5 mmol) in dry THF (3 mL) stirred under N2 at 25° C. was added dropwise propionyl chloride (0.05 mL, 0.58 mmol). A yellow solid formed at once. After 45 minutes the solid was collected by filtration and washed with ether and dried. Recrystallized from wet methanol afforded the desired product (97 mg, 47%), mp 265-266° C.

reactant | 6-amino-4-[(3-bromophenyl)amino]quinazoline | 0.5 mmol, 157 mg | NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)Br | C14H11BrN4
reactant | propionyl chloride | 0.58 mmol, 0.05 mL | C(CC)(=O)Cl | C3H5ClO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-[4-(3-Bromo-phenylamino)-quinazolin-6-yl]propanamide | 97 mg, 47% | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(CC)=O | C17H15BrN4O
